US07754721B2
A mixture of 4-(1-benzenesulfonyl-3-iodo-1H-indol-5-yl)-3-benzyl-piperazine-1-carboxylic acid tert-butyl ester (0.23 g, 0.4 mmol), CuCN (0.13 g, 1.4 mmol), Pd2(dibenzylideneacetone)3 (0.017 g, 0.02 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.040 g, 0.07 mmol) was taken up in 5 mL 1,4 dioxane and warmed to reflux for one hour. The mixture was cooled to room temperature and filtered through a pad of celite. The filter cake was washed with EtOAc and the filtrate was concentrated under reduced pressure. Purification via flash chromatography (gradient: 15 to 25% EtOAc in hexanes) afforded 4-(1-benzenesulfonyl-3-cyano-1H-indol-5-yl)-3-benzyl-piperazine-1-carboxylic acid tert-butyl ester (0.20 g, 97%) as a white foam; MS (M+H)=557.

reactant | 4-(1-benzenesulfonyl-3-iodo-1H-indol-5-yl)-3-benzyl-piperazine-1-carboxylic acid tert-butyl ester | 0.4 mmol, 0.23 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)I)CC1=CC=CC=C1 | C30H32IN3O4S
reactant | CuCN | 1.4 mmol, 0.13 g | C(#N)[Cu]
solvent | 1,4 dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.07 mmol, 0.040 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-(1-benzenesulfonyl-3-cyano-1H-indol-5-yl)-3-benzyl-piperazine-1-carboxylic acid tert-butyl ester | 0.20 g, 97% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C#N)CC1=CC=CC=C1 | C31H32N4O4S
